US07868188B2
N-{5-[5-(Benzylamino)-6-chloropyridin-3-yl]-4-methyl-1,3-thiazol-2-yl}acetamide
N-[5-(5-amino-6-chloropyridin-3-yl)-4-methyl-1,3-thiazol-2-yl]acetamide (30 mg, 0.11 mmol), benzaldehyde (0.016 mL, 0.16 mmol) and sodium cyanoborohydride (13 mg, 0.21 mmol) were mixed in NMP (0.9 mL) and acetic acid (0.1 mL). Chlorotrimethylsilane (0.04 mL, 0.32 mmol) was added and the mixture was stirred overnight. The reaction product was purified by preparative HPLC (Method A) to give the title product (retention time 9.73 minutes; 19 mg); 1H NMR Spectrum: (DMSOd6) 12.13 (1H, s); 7.60 (1H, d); 7.38-7.30 (4H, m); 7.22 (1H, t); 6.80 (1H, d); 6.67 (1H, s); 4.47 (2H, s); 2.12 (3H, s); 2.03 (3H, s); Mass Spectrum: M+H+ 373 and 375.

reactant | N-[5-(5-amino-6-chloropyridin-3-yl)-4-methyl-1,3-thiazol-2-yl]acetamide | 0.11 mmol, 30 mg | NC=1C=C(C=NC1Cl)C1=C(N=C(S1)NC(C)=O)C | C11H11ClN4OS
reactant | benzaldehyde | 0.16 mmol, 0.016 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | sodium cyanoborohydride | 0.21 mmol, 13 mg | C(#N)[BH3-].[Na+]
reactant | Chlorotrimethylsilane | 0.32 mmol, 0.04 mL | Cl[Si](C)(C)C | C3H9ClSi
solvent | NMP | 0.9 mL | CN1CCCC1=O | C5H9NO
solvent | acetic acid | 0.1 mL | C(C)(=O)O | C2H4O2
product | N-{5-[5-(Benzylamino)-6-chloropyridin-3-yl]-4-methyl-1,3-thiazol-2-yl}acetamide | 19 mg | C(C1=CC=CC=C1)NC=1C=C(C=NC1Cl)C1=C(N=C(S1)NC(C)=O)C | C18H17ClN4OS
